US08912210B2
Step B: tert-Butyl[(3S,5S,6R)-6-methyl-1-(2-methylpropyl)-2-oxo-5-phenylpiperidin-3-yl]carbamate
To a solution of tert-butyl[(3S,5S,6R)-6-methyl-1-(2-methylprop-2-en-1-yl)-2-oxo-5-phenylpiperidin-3-yl]carbamate (0.129 g, 0.364 mmol) in ethanol (15 mL) was added 10 wt. % palladium on carbon (39 mg, 0.036 mmol) and the mixture was stirred under a balloon of hydrogen at 23° C. for 1 h. The catalyst was removed by filtration through Celite® and washed thoroughly with ethanol and ethyl acetate. Concentration of the organics afforded the title compound which was used as is. MS: m/z=361.2 (M+1).

reactant | tert-butyl[(3S,5S,6R)-6-methyl-1-(2-methylprop-2-en-1-yl)-2-oxo-5-phenylpiperidin-3-yl]carbamate | 0.364 mmol, 0.129 g | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(=C)C)=O)=O | C21H30N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.036 mmol, 39 mg | [Pd] | Pd
product | tert-Butyl[(3S,5S,6R)-6-methyl-1-(2-methylpropyl)-2-oxo-5-phenylpiperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(C)C)=O)=O | C21H32N2O3
